US06608049B2
In an analogous manner to the procedure of Example VI, 1.70 g (5.43 mmol) of 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-ol are reacted with 4.25 g (48.83 mmol) of manganese dioxide in 30 ml of dichloromethane to give 1.37 g (81%) of 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-one.

reactant | 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-ol | 5.43 mmol, 1.70 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C=C(C)C)O)[N+](=O)[O-] | C18H19NO4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 48.83 mmol, 4.25 g | [O-2].[O-2].[Mn+4]
product | 1-[5-(benzyloxy)-2-nitrophenyl]-3-methyl-2-buten-1-one | 1.37 g, 81% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C=C(C)C)=O)[N+](=O)[O-] | C18H17NO4
